US06610689B2
Preparation of Nα-Cyclopentylmethyl-Nα-(4-methoxybenzenesulfonyl)-Nε-(N′α-tert-butoxycarbonyl-L-tryptophanyl)-L-lysine Methyl Ester
The title compound was prepared in the same manner as in example 65 (step D) using Nα-cyclopentylmethyl-Nα-(4-methoxybenzenesulfonyl)-L-lysine methyl ester (this example, step B) and Nα-tert-butoxycarbonyl-L-tryptophan-N-hydroxysuccinimide as the starting materials. The yield of the two last reactions was 82%.

reactant | Nα-cyclopentylmethyl-Nα-(4-methoxybenzenesulfonyl)-L-lysine methyl ester | COC([C@@H](N(S(=O)(=O)C1=CC=C(C=C1)OC)CC1CCCC1)CCCCN)=O | C20H32N2O5S
reactant | Nα-tert-butoxycarbonyl-L-tryptophan N-hydroxysuccinimide | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O.ON1C(CCC1=O)=O
product | Nα-Cyclopentylmethyl-Nα-(4-methoxybenzenesulfonyl)-Nε-(N′α-tert-butoxycarbonyl-L-tryptophanyl)-L-lysine Methyl Ester | CC(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C21)C(=O)NCCCC[C@@H](C(=O)OC)N(CC3CCCC3)S(=O)(=O)C4=CC=C(C=C4)OC | C36H50N4O8S
